US07642264B2
4-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from N-hydroxy-4-sulfamoyl-benzamidine [CAS-No. 4476-10-2] (0.16 g, 0.75 mmol) and 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid (example D.1) (0.15 g, 0.5 mmol) according to the general procedure V. Obtained as a white solid (0.038 g, 16%). MS (ISN) 480.1 [(M−H)−]; mp 289.5° C.

reactant | N-hydroxy-4-sulfamoyl-benzamidine | 0.75 mmol, 0.16 g | ONC(C1=CC=C(C=C1)S(N)(=O)=O)=N | C7H9N3O3S
reactant | 4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine-2-carboxylic acid | 0.5 mmol, 0.15 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=O)O | C12H6ClF3N2O2
product | 4-{5-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=C1)S(=O)(=O)N | C19H11ClF3N5O3S
